US06426121B1
Dual Crosslinking of Vinyl Acetate/Ethylene/Acrylic Acid Polymer
To 100 g of this emulsion 45.1 g of deionized water is added. Then 7.5 g of glyoxal (a 40% aqueous solution) followed by addition of 1.5 g of CX-100 (100% active). This formulation is then ready to be printed onto a nonwoven basestock. Upon printing, the nonwoven web is placed into an oven at 150° F. for two minutes to remove all the water. This formulation provides tensile performance to the nonwoven basestock similar to that achieved by standard heat activated systems based upon N-methylol acrylamide for example which do not provide any tensile performance under similar drying conditions.

reactant | glyoxal | 7.5 g | C(=O)C=O | C2H2O2
reactant | CX-100 | 1.5 g | CCC(COC(=O)CCN1CC1C)(COC(=O)CCN2CC2C)COC(=O)CCN3CC3C | C24H41N3O6
reactant | N-methylol acrylamide | C(O)NC(C=C)=O | C4H7NO2
solvent | water | 45.1 g | O | H2O
product | Vinyl Acetate Ethylene/Acrylic Acid | C(C)(=O)OC=C.C=C.C(C=C)(=O)O | InChI=1S/C4H6O2.C3H4O2.C2H4/c1-3-6-4(2)5;1-2-3(4)5;1-2/h3H,1H2,2H3;2H,1H2,(H,4,5);1-2H2
